US06288096B1
6.75 g (64 mmole) triethylamine was added to 5 g (14,6 mmole) 4-[2-(4-aminophenyl)ethoxy]benzaldehyde x HCl (containing some ethyl acetate) in dichloromethane. 3.65 g (32 mmole) methanesulfonyl chloride was slowly added at 0° C., and the mixture was stirred over the weekend. A yellow precipitate was filtered off and the filtrate was washed with water. The organic phase was dried (sodium sulfate), filtered and the solvent was evaporated. The residue contained some triethylamine and therefore it was dissolved in dichloromethane and washed with 2 M hydrochloric acid and brine, dried and filtered and the solvent was evaporated to give 1.6 g (yield 34%) of N-{4-[2-(4-formylphenoxy)ethyl]phenyl}methanesulfonamide as a yellow powder.

reactant | triethylamine | 64 mmole, 6.75 g | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(4-aminophenyl)ethoxy]benzaldehyde | 14,6 mmole, 5 g | NC1=CC=C(C=C1)CCOC1=CC=C(C=O)C=C1 | C15H15NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonyl chloride | 32 mmole, 3.65 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[2-(4-formylphenoxy)ethyl]phenyl}methanesulfonamide | 1.6 g, yield 34% | C(=O)C1=CC=C(OCCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C16H17NO4S
